US05041462
Preparation of 2-(ethylamino)-6-(propionyloxyacetylamino)benzonitrile:
To a solution of 2-amino-6-(ethylamino)benzonitrile (2.3 g) in methylene chloride (50 ml) is added pyridine (1.6 ml), and thereto is added dropwise propionyloxyacetyl chloride (3.0 ml) which is cooled in an ice bath. The mixture is stirred at room temperature for 1 hour, and thereafter, water is added thereto, and the mixture is extracted with methylene chloride. The organic layer is dried over anhydrous sodium sulfate, and the solvent is distilled off under reduced pressure. The resulting crude crystals are recrystallized from ethanol to give the title compound (1.6 g) having the following physical properties.

reactant | 2-amino-6-(ethylamino)benzonitrile | 2.3 g | NC1=C(C#N)C(=CC=C1)NCC | C9H11N3
reactant | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyloxyacetyl chloride | 3.0 ml | C(CC)(=O)OCC(=O)Cl | C5H7ClO3
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(ethylamino)-6-(propionyloxyacetylamino)benzonitrile | 1.6 g | C(C)NC1=C(C#N)C(=CC=C1)NC(COC(CC)=O)=O | C14H17N3O3
